US04511560
Analogous treatments to those described in Example 1 were carried out except the use of a fermentation medium having the following composition so that DC-45-A (5 mg), DC-45-B1 (5 mg) and DC-45-B2 (3 mg) were obtained.

reactant | DC-45-A | 5 mg | CC1C(C(CC(O1)OC2CC(C(=O)C3=C(C4=C5C(=C(C=C4C(=C23)OC)C)C6C7C(O5)(C8(CO8)C(O6)(O7)C(OC)OC)OC9CC(C(C(O9)C)(C(=O)C)O)O)O)O)(C)O)OC(=O)C | C42H52O20
reactant | DC-45-B1 | 5 mg | C[C@H]1[C@H]([C@](C[C@@H](O1)OC2CC(C(=O)C3=C(C4=C5C(=C(C=C4C(=C23)OC)C)C6C7C(O5)(C(C(O6)(O7)C(OC)OC)(CO)O)O[C@H]8C[C@H]([C@]([C@@H](O8)C)(C(=O)C)O)O)O)O)(C)O)OC(=O)C | C42H54O21
product | DC-45-B2 | 3 mg | CC1C(C(CC(O1)OC23C4C(C5=C(C=C6C(=C5O2)C(=C7C(=O)C(CC(C7=C6OC)OC8CC(C(OC8)(C)OC(=O)C)(C)O)O)O)C)OC(C39CO9)(O4)C(OC)OC)O)(C(C)O)O | C42H54O20
